US07442797B2
Preparation of 2-(m-chlorophenyl)pyridine
(μ-acetylcyclopentadienyl)(1,5-cyclooctadiene)cobalt (144 mg), m-chlorobenzonitrile (1.80 g) and 10 ml of o-xylene were placed into a 100 ml autoclave, then acetylene was filled in the autoclave, and the reaction was carried out at 150° C. After the reaction mixture was allowed to cool, to which was then added water, the mixture was extracted with toluene, the solvent was distilled off, and the residue was purified by silica gel column chromatography, thereby obtaining desired compound as an oily substance (2.37 g).

reactant | m-chlorobenzonitrile | 1.80 g | ClC=1C=C(C#N)C=CC1 | C7H4ClN
reactant | acetylene | C#C | C2H2
reactant | o-xylene | 10 ml | CC=1C=CC=CC1C | C8H10
product | 2-(m-chlorophenyl)pyridine | ClC=1C=C(C=CC1)C1=NC=CC=C1 | C11H8ClN
